US07074806B2
Synthesis of N-[3-(5-Fluoro-2-methoxy-phenyl)-3-methyl-1-quinolin-4-ylmethyl-1-trifluoromethyl-butyl]-acetamide (Compound 30)
A solution of 3-(5-fluoro-2-methoxy-phenyl)-3-methyl-1-quinolin-4-ylmethyl-1-trifluoromethyl-butylamine (42.0 mg, 0.1 mmol) in dichloroethane (4 mL) was treated with acetic anhydride (71 μL, 1.0 mmol). The mixture was stirred for 16 h at 85° C. and quenched with NaHCO3 (sat, 4 mL). Phases were separated and the aqueous layer was extracted with CHCl3 (3×2 mL). The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo. The residue was purified on SiO2 (50%–70%, EtOAc:hexanes) to give 34.0 mg (74%) of the title product.

reactant | 3-(5-fluoro-2-methoxy-phenyl)-3-methyl-1-quinolin-4-ylmethyl-1-trifluoromethyl-butylamine | 0.1 mmol, 42.0 mg | FC=1C=CC(=C(C1)C(CC(C(F)(F)F)(CC1=CC=NC2=CC=CC=C12)N)(C)C)OC | C23H24F4N2O
reactant | acetic anhydride | 1.0 mmol, 71 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloroethane | 4 mL | ClC(C)Cl | C2H4Cl2
product | N-[3-(5-Fluoro-2-methoxy-phenyl)-3-methyl-1-quinolin-4-ylmethyl-1-trifluoromethyl-butyl]-acetamide | 34.0 mg, 74% | FC=1C=CC(=C(C1)C(CC(C(F)(F)F)(CC1=CC=NC2=CC=CC=C12)NC(C)=O)(C)C)OC | C25H26F4N2O2
